US04713381
A mixture of 21 g of N'-chloroacetyl-2,6-dimethylimidazo[1,2-a]pyridine-3-carbohydrazide and 30 g of potassium carbonate in 200 ml of methyl ethyl ketone and 100 ml of dimethylformamide is stirred with refluxing for 5 hours. After insoluble substances are filtered off, the solvent is distilled off and water is added to the resultant residue. The precipitated crystals are collected by filtration and recrystallized from methanol to give 3 g of 2-(2,6-dimethylimidazo[1,2-a]pyridin-3-yl)-4,6-dihydro-1,3,4-oxadiazin-5-one as white crystals, melting at 313° C. with decomposition.

reactant | N'-chloroacetyl-2,6-dimethylimidazo[1,2-a]pyridine-3-carbohydrazide | 21 g | ClCC(=O)NNC(=O)C1=C(N=C2N1C=C(C=C2)C)C | C12H13ClN4O2
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2,6-dimethylimidazo[1,2-a]pyridin-3-yl)-4,6-dihydro-1,3,4-oxadiazin-5-one | 3 g | CC=1N=C2N(C=C(C=C2)C)C1C=1OCC(NN1)=O | C12H12N4O2
